US04844727
2-amino-4-methoxy-6-pyrimidylacetonitrile
2-amino-4-chloro-6-pyrimidylacetonitrile (31.6 g, 204.6 mmol) was dissolved in methanol (500 ml) and then sodium methoxide in methanol (46.8 ml, 204.6 mmol) was added at 25° C. The resultant dark solution was heated at reflux for 1 hour and after this time TLC indicated complete reaction. The reaction was cooled and acidified to pH 6 with acetic acid and the mixture was filtered. The filtrated was concentrated and the residue was taken up in ethyl acetate and washed with water and brine and dried with magnesium sulfate. The brown solid was chromatographed on silica gel using 1:1 ethyl acetate/hexane as eluent to furnish two fractions. Fraction A furnished 6.9 g of pure subject as a yellow solid, m.p. 117°-118° C. Fraction B furnished 4.23 g of impure subject as a pink solid, m.p. 95°-98° C. NMR (fraction A) (90 mHz) D6-acetone δ 6.2-5.9 (bs, 2 H), 6.1 (s, 1 H), 3.9 (s, 3 H), 3.7 (s, 2 H). EXAMPLE 4

reactant | 2-amino-4-chloro-6-pyrimidylacetonitrile | 204.6 mmol, 31.6 g | NC1=NC(=CC(=N1)Cl)CC#N | C6H5ClN4
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 204.6 mmol, 46.8 ml | CO | CH4O
product | 2-amino-4-methoxy-6-pyrimidylacetonitrile | NC1=NC(=CC(=N1)OC)CC#N | C7H8N4O
